US06211234B1
A solution of 2,4-dibenzyloxybenzoic acid (3.34 g) and methyl glycinate hydrochloride (1.25 g) in DMF (40 mL) is treated with triethylamine (2.23 g) and 1-hydroxybenzotriazole (1.53 g) at 0° C. The mixture is stirred for 10 minutes, treated with 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide, hydrochloride (2.05 g) and allowed to warm to 25° C. The solution is evaporated. The residue is partitioned between ethyl acetate and water. The organic layer is washed with 1 M HCl, 1 M NaOH, water, dried and evaporated. The residue is recrystallized from methanol to yield methyl N-(2,4-dibenzyloxybenzoyl)glycinate as a solid (900 mg). H NMR (CDCl3) 3.7(3H,s), 4.2(2H,d), 5.1 (2H,s), 5.2(2H,s), 6.6(1H,s), 6.7(1H,d), 7.3-7.5(10H,m), 8.2(1H,d), 8.4(1H,t).

reactant | 2,4-dibenzyloxybenzoic acid | 3.34 g | C(C1=CC=CC=C1)OC1=C(C(=O)O)C=CC(=C1)OCC1=CC=CC=C1 | C21H18O4
reactant | methyl glycinate hydrochloride | 1.25 g | Cl.NCC(=O)OC
reactant | 1-hydroxybenzotriazole | 1.53 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide, hydrochloride | 2.05 g | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | triethylamine | 2.23 g | C(C)N(CC)CC | C6H15N
product | methyl N-(2,4-dibenzyloxybenzoyl)glycinate | 900 mg | C(C1=CC=CC=C1)OC1=C(C(=O)NCC(=O)OC)C=CC(=C1)OCC1=CC=CC=C1 | C24H23NO5
